US06452014B1
2-(1-Methylpyrrol-2-yl)-5,6-dichlorobenzimidazole was prepared from 1-methyl-2-pyrrolecarboxaldehyde and 4,5-dichloro-1,2-phenylenediamine by following General Procedure 2.

reactant | 1-methyl-2-pyrrolecarboxaldehyde | CN1C(=CC=C1)C=O | C6H7NO
reactant | 4,5-dichloro-1,2-phenylenediamine | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
product | 2-(1-Methylpyrrol-2-yl)-5,6-dichlorobenzimidazole | CN1C(=CC=C1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C12H9Cl2N3
